US06028223
3-Nitro-1-naphthoic acid (1.77 g, 0.008 mole) was dissolved in a minimum of warm MeOH. 10% Pd/C (300 mg) was added and the reaction shaken on a Parr shaker under 50 psi H2 for 5 hours. The catalyst was filtered through celite and the solvent was removed under vacuum. The residue was dried to yield 3-amino-1-naphthoic acid (1.43 g) as a pink colored solid.

reactant | 3-Nitro-1-naphthoic acid | 0.008 mole, 1.77 g | [N+](=O)([O-])C=1C=C(C2=CC=CC=C2C1)C(=O)O | C11H7NO4
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 3-amino-1-naphthoic acid | 1.43 g | NC=1C=C(C2=CC=CC=C2C1)C(=O)O | C11H9NO2
